US08202885B2
To a solution of 0.36 g of 3-furo[2,3-b]pyridin-5-yl-N-methyl-propionamide in 10 ml of THF was added dropwise 2.3 ml of a LiAlH4 (2.3M THF) solution at 0° C. The reaction mixture was slowly heated to 60° C. over 1 h and stirred for another 2 h at 60° C. The reaction was quenched by addition of 1M NaOH solution. The resulting mixture was filtrated over a pad of celite, washed with THF and the filtrate was concentrated in vacuo to yield 0.35 g of (3-furo[2,3-b]pyridin-5-yl-propyl)-methyl-amine as brown oil.

reactant | 3-furo[2,3-b]pyridin-5-yl-N-methyl-propionamide | 0.36 g | O1C=CC=2C1=NC=C(C2)CCC(=O)NC | C11H12N2O2
reactant | LiAlH4 | 2.3M, 2.3 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (3-furo[2,3-b]pyridin-5-yl-propyl)-methyl-amine | 0.35 g | O1C=CC=2C1=NC=C(C2)CCCNC | C11H14N2O
